US07592363B2
2-[4-({3-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}METHYL)PHENYL]-2-METHYLPROPANOIC ACID
This compound was prepared similarly to that of Example 525 by treating 3-(2-benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol (23 mg, 1 eq) with 2-(4-bromomethyl-phenyl)-2-methyl-propionic acid methyl ester (17 mg, 1 eq) and potassium carbonate (26 mg, 3 eq) in acetone (2 mL). The latter reagent was obtained by heating p-tolyl-acetic acid in methanol and a catalytic amount of sulphuric acid. Subsequent methylation was accomplished by treating the obtained ester (50 mg, 1 eq) with sodium hydride (26 mg, 2.2 eq) and methyl iodide (41 μL, 2.2 eq) in THF (1 mL). Then α-bromination was accomplished by refluxing the ester (16 mg, 1 eq) with NBS (15 mg, 1 eq) and benzoyl peroxide (1 mg, 3%) in carbon tetrachloride (1.5 mL) overnight. The reaction mixture was cooled, water was added and product extracted with dichloromethane. The residue was purified by flash chromatography (ethyl acetate/n-heptane, 1:9, as an eluent). Then the resulting compound was then hydrolyzed with aq LiOH (1M, 40 eq)/THF, 1:1, and purified by preparative HPLC, affording the desired product in 26% yleld.

reactant | 3-(2-benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol | 23 mg, 1 eq | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C=1C=C(C=CC1)O)C(F)(F)F | C21H15F3N2O
reactant | 2-(4-bromomethyl-phenyl)-2-methyl-propionic acid methyl ester | 17 mg, 1 eq | COC(C(C)(C)C1=CC=C(C=C1)CBr)=O | C12H15BrO2
reactant | potassium carbonate | 26 mg, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | p-tolyl-acetic acid | C1(=CC=C(C=C1)CC(=O)O)C | C9H10O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydride | 26 mg, 2.2 eq | [H-].[Na+]
reactant | methyl iodide | 41 μL, 2.2 eq | CI | CH3I
reactant | NBS | 15 mg, 1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 1 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | LiOH | 1M, 40 eq | [Li+].[OH-]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | carbon tetrachloride | 1.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | 2-[4-({3-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}METHYL)PHENYL]-2-METHYLPROPANOIC ACID | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C=1C=C(OCC2=CC=C(C=C2)C(C(=O)O)(C)C)C=CC1)C(F)(F)F | C32H27F3N2O3
